US07767675B2
Step 1. Methyl 4-(oxoacetyl)benzoate
To a solution of 4-acetylbenzoic acid methyl ester (25 g, 0.14 mol) in dimethyl sulfoxide (300 mL) was added slowly a solution of hydrogen bromide in water (48%, 48 mL) at RT with stirring. The mixture was stirred at 60° C. overnight. After cooling to RT, it was poured into ice-water. The precipitate was filtered and dried to afford the desired product (15.6 g, 79%).

reactant | 4-acetylbenzoic acid methyl ester | 0.14 mol, 25 g | COC(C1=CC=C(C=C1)C(C)=O)=O | C10H10O3
reactant | hydrogen bromide | Br | BrH
reactant | dimethyl sulfoxide | 300 mL | CS(=O)C | C2H6OS
solvent | water | 48 mL | O | H2O
product | Methyl 4-(oxoacetyl)benzoate | 15.6 g, 79% | O=CC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H8O4
